US08258097B2
To a solution of (S)-3-(4-Benzyloxy-3-methylcarbamoyloxy-phenyl)-2-tert-butoxy-carbonylamino-propionic acid methyl ester (0.80 g) in dichloromethane (10 ml) was added HCl solution (4M in dioxane, 4 ml) at 0° C. The mixture was stirred at this temperature for 2 h. Diethyl ether was added and a white solid precipitated. (S)-2-(4-Benzyloxy-3-methylcarbamoyloxy-phenyl)-1-methoxycarbonyl-ethyl-ammonium chloride was obtained by filtration as a white solid, 0.654 g. 1H NMR (400 MHz, d6-DMSO) 2.65 (d, 3H), 3.01-3.14 (m, 2H), 3.67 (s, 3H), 4.24 (m, 1H), 5.10 (s, 2H), 7.01-7.11 (m, 3H), 7.30-7.44 (m, 5H), 7.61 (m, 1H), 8.64 (br, 3H).

reactant | (S)-3-(4-Benzyloxy-3-methylcarbamoyloxy-phenyl)-2-tert-butoxy-carbonylamino-propionic acid methyl ester | 0.80 g | COC([C@](CC1=CC(=C(C=C1)OCC1=CC=CC=C1)OC(NC)=O)(OC(C)(C)C)N=C=O)=O | C24H28N2O7
reactant | HCl | 4M, 4 ml | Cl | ClH
reactant | Diethyl ether | C(C)OCC | C4H10O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | (S)-2-(4-Benzyloxy-3-methylcarbamoyloxy-phenyl)-1-methoxycarbonyl-ethyl-ammonium chloride | [Cl-].C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C[C@@H](C(=O)OC)[NH3+])OC(NC)=O | InChI=1S/C19H22N2O5.ClH/c1-21-19(23)26-17-11-14(10-15(20)18(22)24-2)8-9-16(17)25-12-13-6-4-3-5-7-13;/h3-9,11,15H,10,12,20H2,1-2H3,(H,21,23);1H/t15-;/m0./s1
